US04055410
A solution of 4.5 g of chloroacetyl chloride in 10 ml of toluene was added dropwise to a solution of 7 g of the 1-methyl-3-(2-methoxyphenylaminomethyl)hydantoin and 2.8 g of pyridine in 40 ml of toluene at -10° C. The suspension was stirred on an ice-bath for 1.5 hrs. The resulting precipitate was filtered and thoroughly washed with 5% hydrochloric acid, water, and recrystallized from chloroformether to give 6.0 g of N-(2,4-dioxo-1-methylimidazolidin-3-ylmethyl)-N-(2-methoxyphenyl)acetamide, mp 169°-172° C; M+ = 325.

reactant | chloroacetyl chloride | 4.5 g | ClCC(=O)Cl | C2H2Cl2O
reactant | 1-methyl-3-(2-methoxyphenylaminomethyl)hydantoin | 7 g | CN1C(=O)N(C(=O)C1)CNC1=C(C=CC=C1)OC | C12H15N3O3
reactant | pyridine | 2.8 g | N1=CC=CC=C1 | C5H5N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2,4-dioxo-1-methylimidazolidin-3-ylmethyl)-N-(2-methoxyphenyl)acetamide | 6.0 g | O=C1N(CC(N1CN(C(C)=O)C1=C(C=CC=C1)OC)=O)C | C14H17N3O4
